US05489593
1-[5-Chloro-4-(1-methylethyl)amino-3-pyridazinyl]piperazine
A mixture of 3,5-dichloro-4-(1-methylethyl)aminopyridazine (PREPARATION 31, 1.77 g) and piperazine (2.96 g) in xylene (18 ml) is refluxed for 40 hr. The mixture is cooled and then treated with concentrated hydrochloric acid (8 ml). After further cooling, a precipitate forms and the organic liquid is separated. The aqueous phase is diluted with an excess of a solution of aqueous sodium hydroxide (10%) and then is extracted with chloroform (3 ×). The combined organic extracts are washed with water, then saline, dried over sodium sulfate, and concentrated to an oil. The crude produce is flash chromatographed on silica gel eluting with methanol. The appropriate fractions are pooled and concentrated to give the title compound, NMR (CDCl3) 1.20, 3.04, 3.18, 4.46, 4.73 and 8.50 δ; CMR (CDCl3) 24.0, 44.3, 45.9, 50.2, 118.2, 135.8, 148.3 and 155.4 δ.

reactant | 3,5-dichloro-4-(1-methylethyl)aminopyridazine | 1.77 g | ClC=1N=NC=C(C1NC(C)C)Cl | C7H9Cl2N3
reactant | piperazine | 2.96 g | N1CCNCC1 | C4H10N2
reactant | hydrochloric acid | 8 ml | Cl | ClH
solvent | xylene | 18 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 1-[5-Chloro-4-(1-methylethyl)amino-3-pyridazinyl]piperazine | ClC=1C(=C(N=NC1)N1CCNCC1)NC(C)C | C11H18ClN5
